US07776847B2
3-Chlorobenzo[d]isothia-zole (300 mg, 3.0 mmol) was dissolved in propane-1,3-diamine (3 mL) and heated at 80° C. for 3 h. The reaction mixture was cooled to room temperature, poured into water and extracted with ethyl acetate. The organic extract was dried over anhydrous sodium sulfate, filtered and the filtrate concentrated under reduced pressure to yield N1-(benzo[d]isothiazol-3-yl)propane-1,3-diamine as a yellow solid, (530 mg). 1H NMR (300 MHz, CDCl3): 7.8 (m, 1H), 7.7 (m, 1H), 7.5 (m, 2H), 7.3 (m, 1H), 3.7 (m, 2H), 2.9 (t, 2H), 1.9 ppm (m, 2H).

reactant | 3-Chlorobenzo[d]isothia-zole | 3.0 mmol, 300 mg | ClC1=NSC2=C1C=CC=C2 | C7H4ClNS
reactant | water | O | H2O
reactant | propane-1,3-diamine | 3 mL | C(CCN)N | C3H10N2
product | N1-(benzo[d]isothiazol-3-yl)propane-1,3-diamine | S1N=C(C2=C1C=CC=C2)NCCCN | C10H13N3S
